US06359134B1
1-(4-Amidino benzoyl)-4-(2-naphthalenesulfonyl)piperazine
To a solution of 1-(2-naphthalenesulfonyl)piperazine hydrochloride (313 mg) in sodium bicarbonate solution (20 ml)-dioxane (20 ml) was added 4-amidinobenzoyl chloride hydrochloride (219 mg) and the solution was stirred at room temperature for 30 minutes. The reaction solution was concentrated, to which were added dichloromethane and water. The organic layer was separated and extracted with 1 N hydrochloric acid. The extract was made alkaline with sodium hydroxide solution and the precipitate was filtered, washed with water and dried to give a colorless solid of the title compound (223 mg).

reactant | 1-(2-naphthalenesulfonyl)piperazine hydrochloride | 313 mg | Cl.C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCNCC1
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | 4-amidinobenzoyl chloride hydrochloride | 219 mg | Cl.C(N)(=N)C1=CC=C(C(=O)Cl)C=C1
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
product | 1-(4-Amidino benzoyl)-4-(2-naphthalenesulfonyl)piperazine | 223 mg | C(N)(=N)C1=CC=C(C(=O)N2CCN(CC2)S(=O)(=O)C2=CC3=CC=CC=C3C=C2)C=C1 | C22H22N4O3S
